US07585881B2
(+)-1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]propan-1-ol
The title compound was synthesized analogous to (+)-(1R)-1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]ethanol and was used directly in the next step for (+)-4-(5-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]propoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine.

reactant | (+)-(1R)-1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]ethanol | ClC=1C=C(C=CC1)C1=NC(=NO1)[C@@H](C)O | C10H9ClN2O2
reactant | (+)-4-(5-{1-[5-(3-chlorophenyl)-1,2,4-oxadiazol-3-yl]propoxy}-4-methyl-4H-1,2,4-triazol-3-yl)pyridine | ClC=1C=C(C=CC1)C1=NC(=NO1)C(CC)OC=1N(C(=NN1)C1=CC=NC=C1)C | C19H17ClN6O2
product | (+)-1-[5-(3-chlorophenyl)-[1,2,4]oxadiazol-3-yl]propan-1-ol | ClC=1C=C(C=CC1)C1=NC(=NO1)C(CC)O | C11H11ClN2O2
